US05843941
N-methylation was accomplished via dropwise addition of NaH (0.24 g, 6 mmol, THF) to a solution of the above product, Boc-3-amino-1-(methyl-3-cyanophenyl)-1,3-dihydro-5-phenyl-1,4-benzodiazapin-2-one (1.28 g, 2.74 mmol), in THF (20 ml) containing CH3I (0.65 ml, 10.4 mmol) at 0° C. for 8 hr. After dilution with Et2O and aqueous workup, concentration of the organic phase and flash chromatography (silica gel, 35% EtOAc/hexane) yielded the product, Boc-3-methylamino-1-(methyl-3-cyanophenyl)-1,3-dihydro-5-phenyl-1,4-benzodiazapin-2-one (0.94 g, 71.5 %). 1H NMR, 13C NMR, and mass analysis were consistent with structure.

reactant | NaH | 6 mmol, 0.24 g | [H-].[Na+]
reactant | Boc-3-amino-1-(methyl-3-cyanophenyl)-1,3-dihydro-5-phenyl-1,4-benzodiazapin-2-one | 2.74 mmol, 1.28 g | C(=O)(OC(C)(C)C)C1(C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C2=C(C(=CC=C2)C#N)C)=O)N | C28H26N4O3
reactant | CH3I | 10.4 mmol, 0.65 ml | CI | CH3I
reactant | Et2O | CCOCC | C4H10O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | Boc-3-methylamino-1-(methyl-3-cyanophenyl)-1,3-dihydro-5-phenyl-1,4-benzodiazapin-2-one | 0.94 g, 71.5 % | C(=O)(OC(C)(C)C)C1(C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C2=C(C(=CC=C2)C#N)C)=O)NC | C29H28N4O3
